US07285682B2
A mixture of 2′-bromomethyl-[1,1′:3′,1″]terphenyl (Tetrahedron Lett. 42; 5467-5472 (2001)) (1.65 g, 5.1 mmol) and sodium cyanide (0.27 g, 5.6 mmol) in 10 mL of DMF was stirred at room temperature overnight. The reaction mixture was poured into water, extracted with diethyl ether and dried over magnesium sulfate. The solvent was removed and the residue was purified by silica gel chromatography (eluting with 0-4% ethyl acetate in hexane) to give [1,1′;3′,1″]terphenyl-2′-yl-acetonitrile as a white solid (0.78 g, 57%): MS (ESI) m/z 270.1 (M+H); HRMS calcd for C20H15N, 270.1277. Found (ESI+): 270.1274; 1H NMR (DMSO-d6): δ 3.57 (s, 2H), 7.20-7.50 (m, 13H).

reactant | 2′-bromomethyl-[1,1′:3′,1″]terphenyl | 5.1 mmol, 1.65 g | BrCC1=C(C=CC=C1C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Br
reactant | sodium cyanide | 5.6 mmol, 0.27 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [1,1′;3′,1″]terphenyl-2′-yl-acetonitrile | 0.78 g, 57% | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)CC#N | C20H15N
